US07906516B2
13-9.1 6.32 g (40.3 mmol) of (2-chloroethoxy)acetyl chloride are added to the solution of 10 g (40.3 mmol) of benzyl (4-aminocyclohexyl)carbamate and 6.2 ml of triethylamine (TEA) in 300 ml of tetrahydrofuran, and the mixture is subsequently stirred at room temperature for 20 hours. The reaction mixture is then evaporated under reduced pressure, the residue is taken up in 20 ml of water, and the aqueous solution is extracted three times with 20 ml of ethyl acetate each time. After the combined organic phases have been dried over sodium sulfate and the solvent has been stripped off, the residue is taken up in 20 ml of acetonitrile, and 2.3 g of caesium carbonate are added to the resultant solution. The reaction mixture is then left to stir at room temperature for 48 hours and then evaporated under reduced pressure, the residue is taken up in 20 ml of water, and the aqueous solution is extracted four times with 20 ml of ethyl acetate each time. After the combined organic phases have been dried over sodium sulfate and the solvent has been stripped off, the residue is taken up in 50 ml of tetrahydrofuran, 0.3 g of 5% palladium/carbon is added to the resultant solution, and the mixture is hydrogenated until the take-up of hydrogen ceases. The catalyst is subsequently filtered off, and the filtrate is evaporated to dryness under reduced pressure, giving 1.5 g of 4-(4-aminocyclohexyl)morpholin-3-one as a colourless oil; ESI 199.

reactant | (2-chloroethoxy)acetyl chloride | ClCCOCC(=O)Cl | C4H6Cl2O2
reactant | benzyl (4-aminocyclohexyl)carbamate | 40.3 mmol, 10 g | NC1CCC(CC1)NC(OCC1=CC=CC=C1)=O | C14H20N2O2
reactant | triethylamine | 6.2 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-(4-aminocyclohexyl)morpholin-3-one | 1.5 g | NC1CCC(CC1)N1C(COCC1)=O | C10H18N2O2
